US08877741B2
3-Bromo-6-ethoxy-2-methoxy-pyridine
To 5.00 g (24.7 mmol) 5-bromo-2-ethoxy-pyridine in 50 mL DCM are added 4.66 g (49.5 mmol) urea hydrogen peroxide. Then the mixture is chilled to 0° C. before 6.88 mL (49.5 mmol) TFA anhydride are added. Afterwards cooling is removed and the resulting mixture is stirred over night while the temperature raises to r.t. The solvent is removed in vacuo, water is added and the resulting mixture is extracted with DCM. The combined org. layers are dried over MgSO4, filtered and the sovent is removed in vacuo. The crude product is purified by column chromatography (silica gel, DCM/MeOH).

reactant | 5-bromo-2-ethoxy-pyridine | 24.7 mmol, 5.00 g | BrC=1C=CC(=NC1)OCC | C7H8BrNO
reactant | urea hydrogen peroxide | 49.5 mmol, 4.66 g | OO.NC(=O)N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-6-ethoxy-2-methoxy-pyridine | BrC=1C(=NC(=CC1)OCC)OC | C8H10BrNO2
